US07115645B2
2-[2-[(1,2-Diphenyl-1H-benzimidazol-6-yl)oxy]ethoxy]acetic acid-tert-butyl ester
0.2 g of [(1,2-diphenyl-1H-benzimidazol-6-yl)oxy]ethan-1-ol was suspended in 1.7 ml of toluene and 0.7 ml of tetrahydrofuran. 0.1 ml of bromoacetic acid-tert-butyl ester, 13 mg of tetrabutylammonium hydrogen sulfate, and 1.45 ml of 32% sodium hydroxide solution were added to it, and it was allowed to stir for 48 hours. Another 0.1 ml of bromoacetic acid-tert-butyl ester and 13 mg of tetrabutylammonium hydrogen sulfate were added, and the mixture was left for 48 hours in an ultrasound bath. Then, it was diluted with water and extracted three times with toluene. The combined organic phases were washed with water and saturated sodium chloride solution, dried on sodium sulfate and concentrated by evaporation in a vacuum. The residue was chromatographed on silica gel.

reactant | [(1,2-diphenyl-1H-benzimidazol-6-yl)oxy]ethan-1-ol | 0.2 g | C1(=CC=CC=C1)N1C(=NC2=C1C=C(C=C2)OC(C)O)C2=CC=CC=C2 | C21H18N2O2
reactant | bromoacetic acid-tert-butyl ester | 0.1 ml | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | sodium hydroxide | 1.45 ml | [OH-].[Na+]
reactant | bromoacetic acid-tert-butyl ester | 0.1 ml | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
solvent | toluene | 1.7 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 0.7 ml | O1CCCC1 | C4H8O
catalyst | tetrabutylammonium hydrogen sulfate | 13 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | tetrabutylammonium hydrogen sulfate | 13 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | 2-[2-[(1,2-Diphenyl-1H-benzimidazol-6-yl)oxy]ethoxy]acetic acid-tert-butyl ester | C(C)(C)(C)OC(COCCOC=1C=CC2=C(N(C(=N2)C2=CC=CC=C2)C2=CC=CC=C2)C1)=O | C27H28N2O4
